US07459554B2
3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-Benzamide:
3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzoic acid methyl ester (150 mg, 0.35 mmol) was dissolved in a sealed tube with 2.0 ml of 7N NH3 in MeOH and heated to 60° C. overnight. LC/MS analysis indicated that the reaction was incomplete, therefore NH3 gas was bubbled into the solution and the reaction was run at 100° C. in a 100 mL Parr pressure vessel. The product was chromatographed on silica gel [Jones Flashmaster, 5 g cartridge, eluting with 2% NH3 in MeOH:CH2Cl2] to yield the title compound as a white solid; 1H NMR (CDCl3, 400 MHz) δ 1.99-2.08 (m, 1H), 2.13-2.25 (m, 1H), 2.46-2.55 (m, 2H), 2.55-2.65 (m, 2H), 3.78-3.87 (m, 1H), 5.21 (s, 2H), 6.95 (d, J=5.2 Hz, 1H), 7.08-7.11 (m, 1H), 7.13 (d, J=5.6 Hz, 1H), 7.22-7.24 (m, 2H), 7.42-7.51 (m, 2H), 7.61 (d, J=8.4 Hz, 1H), 7.80-7.83 (m, 1H), 7.94 s, 1H); MS (ES+): m/z 414.21 (100) [MH+].

reactant | 3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzoic acid methyl ester | 0.35 mmol, 150 mg | COC(C1=CC(=CC=C1)COC1=CC(=CC=C1)C=1N=C(N2C1C(=NC=C2)N)C2CCC2)=O | C25H24N4O3
reactant | NH3 | 7N, 2.0 ml | N | H3N
solvent | MeOH | CO | CH4O
product | 3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-Benzamide | NC=1C=2N(C=CN1)C(=NC2C=2C=C(OCC=1C=C(C(=O)N)C=CC1)C=CC2)C2CCC2 | C24H23N5O2
